US04788195
1-[(4-Aminophenoxy)acetyl]-4-methylpiperazine
Prepared from p-aminophenol and 1-(bromoacetyl)-4-methylpiperazine by the method of Example 333 to give a product of m.p. 71°-73° C.

reactant | p-aminophenol | C1=CC(=CC=C1N)O | C6H7NO
reactant | 1-(bromoacetyl)-4-methylpiperazine | BrCC(=O)N1CCN(CC1)C | C7H13BrN2O
product | 1-[(4-Aminophenoxy)acetyl]-4-methylpiperazine | NC1=CC=C(OCC(=O)N2CCN(CC2)C)C=C1 | C13H19N3O2
